US05624950
A mixture of 2.31 g of (3aRS,7aRS)-2-benzyl-7,7-dimethyl-4-perhydroisoindolone and 9.96 cm3 of 1N hydrochloric acid in 25 cm3 of anhydrous ethanol is heated to 60° C. with stirring; 0.11 g of 20% palladium hydroxide on charcoal is added and the reaction mixture is then hydrogenated, with stirring, at a temperature of 60° C. and at atmospheric pressure. After reaction for 6 hours, the reaction mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). 2.17 g of (3aRS,7aRS)-7,7-dimethyl-4-perhydroisoindolone hydrochloride are obtained, in the form of a pink oil containing ethanol.

reactant | (3aRS,7aRS)-2-benzyl-7,7-dimethyl-4-perhydroisoindolone | 2.31 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C)C | C17H23NO
reactant | hydrochloric acid | 1N, 9.96 cm3 | Cl | ClH
solvent | ethanol | 25 cm3 | C(C)O | C2H6O
catalyst | palladium hydroxide on charcoal | 0.11 g | [OH-].[OH-].[Pd+2]
product | (3aRS,7aRS)-7,7-dimethyl-4-perhydroisoindolone hydrochloride | 2.17 g | Cl.CC1(CCC(C2CNCC12)=O)C | InChI=1S/C10H17NO.ClH/c1-10(2)4-3-9(12)7-5-11-6-8(7)10;/h7-8,11H,3-6H2,1-2H3;1H
